US05082838
Ethyl (3-amino-6,8-dioxo-7-propyl-4H,6H-pyrimido[6,1-b][1,3]thiazine-2-yl)carboxylate
A solution of 6-chloro-1-cyanomethyl-3-propylpyrimidine-2,4(1H,3H)-dione (1.5 g), ethyl thioglycolate (0.88 g) and potassium carbonate (1 g) in ethanol (30 ml) was refluxed for 15 hours. The reaction solution was concentrated to dryness, and the resulting residue was purified by column chlomatography on silica gel. The resulting crude crystals were recrystalized from ethyl acetate-hexane to give colorless plates (0.23 g, 11%).

reactant | 6-chloro-1-cyanomethyl-3-propylpyrimidine-2,4(1H,3H)-dione | 1.5 g | ClC1=CC(N(C(N1CC#N)=O)CCC)=O | C9H10ClN3O2
reactant | ethyl thioglycolate | 0.88 g | C(CS)(=O)OCC | C4H8O2S
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl (3-amino-6,8-dioxo-7-propyl-4H,6H-pyrimido[6,1-b][1,3]thiazine-2-yl)carboxylate | NC=1CN2C(SC1C(=O)OCC)=CC(N(C2=O)CCC)=O | C13H17N3O4S
